US05753664
1-[3-(4-Chlorobenzoyl)benzyl]-5-methyl-1H-pyrrolo-[2,3-d]pyridazin-4(5H)-one
A solution of 5-methyl-1H-pyrrolo[2,3-d]pyridazin-4(5H)-one (298 mg) in DMF (10 ml) was dripped into a suspension of 60% sodium hydride-oil (96 mg) in DMF (8 ml) on an ice-water bath. The mixture was stirred at room temperature for 1 hour, after which a solution of 3-(4-chlorobenzoyl)benzyl bromide (681 mg) in DMF (15 ml) was added and the mixture was further stirred at room temperature for 2 hours. The reaction was stopped by adding water and the reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developer; n-hexane: ethyl-acetate=1:3) to provide the title compound as white powder (630 mg, yield 83%).

reactant | 5-methyl-1H-pyrrolo[2,3-d]pyridazin-4(5H)-one | 298 mg | CN1N=CC2=C(C1=O)C=CN2 | C7H7N3O
reactant | sodium hydride | 96 mg | [H-].[Na+]
reactant | 3-(4-chlorobenzoyl)benzyl bromide | 681 mg | ClC1=CC=C(C(=O)C=2C=C(CBr)C=CC2)C=C1 | C14H10BrClO
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-[3-(4-Chlorobenzoyl)benzyl]-5-methyl-1H-pyrrolo-[2,3-d]pyridazin-4(5H)-one | 630 mg, yield 83% | ClC1=CC=C(C(=O)C=2C=C(CN3C=CC4=C3C=NN(C4=O)C)C=CC2)C=C1 | C21H16ClN3O2
